US07678802B2
Synthesis of 2-(2-Methoxy-phenyl)-7-methyl-3H-quinazolin-4-one
N-(2-Cyano-5-methyl-phenyl)-2-methoxy-benzamide 2-Amino-4-methyl anthronitrile (50.0 g, 378.3 mmol) was dissolved in 1 L dry pyridine and cooled to 0° C. O-Anisoyl chloride (63.0 ml, 453.96 mmol) was added dropwise over a 40 minute period and the reaction was allowed to warm to room temperature and stirred under a nitrogen atmosphere for 16 hours. The reaction was poured over 2 L of ice and the product formed a precipitate. The product was collected by vacuum filtration and dried for 3 days to produce the desired product a fluffy tan solid. Recovered 92.0 g 91% yield. LC/MS (10-99%) M/Z 267.2, retention time 3.34 minutes.

reactant | N-(2-Cyano-5-methyl-phenyl)-2-methoxy-benzamide 2-Amino-4-methyl anthronitrile | 378.3 mmol, 50.0 g | NC1=C(C2=CC3=CC=CC=C3C=C2C(=C1)C)C#N.C(#N)C1=C(C=C(C=C1)C)NC(C1=C(C=CC=C1)OC)=O
reactant | O-Anisoyl chloride | 453.96 mmol, 63.0 ml | COC1=CC=CC=C1C(=O)Cl | C8H7ClO2
solvent | pyridine | 1 L | N1=CC=CC=C1 | C5H5N
product | 2-(2-Methoxy-phenyl)-7-methyl-3H-quinazolin-4-one | 91% yield | COC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(N1)=O)C | C16H14N2O2
